US06002008
4-(3-Chloro-4-fluorophenylamino)-6,7-diethoxy-3-quinolinecarbonitrile
In the manner of Example 105 reaction of 4-chloro-6,7-diethoxy-3-quinolinecarbonitrile with 3-chloro-4-fluoroaniline gave the title compound as an off-white solid, mp 194-198° C.

reactant | 4-chloro-6,7-diethoxy-3-quinolinecarbonitrile | ClC1=C(C=NC2=CC(=C(C=C12)OCC)OCC)C#N | C14H13ClN2O2
reactant | 3-chloro-4-fluoroaniline | ClC=1C=C(N)C=CC1F | C6H5ClFN
product | 4-(3-Chloro-4-fluorophenylamino)-6,7-diethoxy-3-quinolinecarbonitrile | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CC(=C(C=C12)OCC)OCC)C#N | C20H17ClFN3O2
